US04308274
Synthesis of 3-isopropylphenyl N-(N'-methanesulfonyl-N'-ethylaminosulfinyl)-N-methylcarbamate.
To a solution of 3-isopropylphenyl methylcarbamate (3.9 g, 0.02 mol) in 20 ml dry tetrahydrofuran, was added pyridine (1.9 g, 0.024 mol) followed by thionyl chloride (2.5 g, 0.021 mol). The mixture was stirred at room temperature for 5 hours. Pyridine (1.9 g, 0.024 mol) was added and followed by N-ethylmethanesulfonamide (2.7 g, 0.022 mol) and stirring of the reaction mixture was continued for an additional 10 hours.

reactant | 3-isopropylphenyl methylcarbamate | 0.02 mol, 3.9 g | CNC(OC1=CC(=CC=C1)C(C)C)=O | C11H15NO2
reactant | pyridine | 0.024 mol, 1.9 g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.021 mol, 2.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | Pyridine | 0.024 mol, 1.9 g | N1=CC=CC=C1 | C5H5N
reactant | N-ethylmethanesulfonamide | 0.022 mol, 2.7 g | C(C)NS(=O)(=O)C | C3H9NO2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-isopropylphenyl N-(N'-methanesulfonyl-N'-ethylaminosulfinyl)-N-methylcarbamate | CS(=O)(=O)N(S(=O)N(C(OC1=CC(=CC=C1)C(C)C)=O)C)CC | C14H22N2O5S2
